US05258380
7 A mixture of 24.8 parts of 4-[[9-[(4-fluorophenyl)methyl]-9H-purin-8-yl]thio]-1-[(4-methylphenyl)sulfonyl]piperidine and 300 parts of acetic acid, saturated with hydrogen bromide was stirred overnight at room temperature. After evaporation, the residue was taken up in water. The whole was treated with a sodium hydroxide solution and extracted with dichloromethane. The extract was acidified with a hydrochloric acid solution and extracted with water. The aqueous layer was treated with a sodium hydroxide solution and the product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol. (95:5 by volume)→trichloromethane and methanol, saturated with ammonia, (90:10 by volume) as eluents. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 3.0 parts (17.4%) of 9-[(4-fluorophenyl)methyl]-8-(4-piperidinylthio)-9H-purine; mp. 113.5 ° C. (compound 31).

reactant | 4-[[9-[(4-fluorophenyl)methyl]-9H-purin-8-yl]thio]-1-[(4-methylphenyl)sulfonyl]piperidine | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1SC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C24H24FN5O2S2
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-[(4-fluorophenyl)methyl]-8-(4-piperidinylthio)-9H-purine | 17.4% | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1SC1CCNCC1 | C17H18FN5S
